US05436273
To a solution of potassium phthalimide (0.275 mole) in DMF (20 ml), 2-tosyloxy-3-butyne (0.25 mole) is added and allowed to react for 3 hours at 70° C. After cooling, the reaction mixture is extracted with chloroform and the chloroform layer is washed and dried. Removal of the chloroform, in vacuo, yields crude 2-phthalimido-3-butyne.

reactant | potassium phthalimide | 0.275 mole | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 2-tosyloxy-3-butyne | 0.25 mole | S(=O)(=O)(C1=CC=C(C)C=C1)OC(C)C#C | C11H12O3S
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-phthalimido-3-butyne | C1(C=2C(C(N1C(C)C#C)=O)=CC=CC2)=O | C12H9NO2
